US04208514
To 200 ml of acetonitrile was added with stirring 24 g(0.1 mole) of 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide and 11.8 g (0.105 mole) of potassium t-butoxide. The resultant mixture was heated to reflux, cooled, and 8.0 ml (0.105 mole of methanesulfonyl chloride in 100 ml of acetonitrile was added dropwise over a 0.5 hr period. The mixture was stirred 64 hours, filtered, and the solvent removed from the filtrate in vacuo. The crude product, 31.5 g, was washed with 2-50 ml-portions of methanol to afford 18.8 g of analytically pure 3-(1-methylethyl)-1-methylsulfonyl-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide. m.p. 156°-158° C.

reactant | 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide | 0.1 mole, 24 g | CC(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | potassium t-butoxide | 0.105 mole, 11.8 g | CC(C)([O-])C.[K+]
reactant | methanesulfonyl chloride | 0.105 mole | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-(1-methylethyl)-1-methylsulfonyl-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide | CC(C)N1S(N(C2=C(C1=O)C=CC=C2)S(=O)(=O)C)(=O)=O | C11H14N2O5S2
